US05998436
Synthesis of 1-(6-amino-3,5-difluoropyridin-2-yl)-6,8-difluoro-7-(3-hydroxyazetidin-1-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To 280 mg of N,N-dimethylformamide were added 125 mg 1-(6-amino-3,5-difluoropyridin-2-yl)-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid, 60 mg of 3-hydroxyazetidine hydrochloride, and 120 mg of N-methylpyrrolidine together with 3 drops of ethanol, and the mixture was stirred at 85° C. for 10 minutes. After adding 0.8 ml of ethanol, the solution was allowed to cool, and the precipitate was collected by filtration and washed with ethanol and diisopropylether successively to obtain 90 mg of the title compound as a pale yellow powder.

reactant | N,N-dimethylformamide | 280 mg | CN(C=O)C | C3H7NO
reactant | 1-(6-amino-3,5-difluoropyridin-2-yl)-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 125 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O)F)F | C15H6F5N3O3
reactant | 3-hydroxyazetidine hydrochloride | 60 mg | Cl.OC1CNC1
reactant | N-methylpyrrolidine | 120 mg | CN1CCCC1 | C5H11N
catalyst | ethanol | 3 drops | C(C)O | C2H6O
solvent | ethanol | 0.8 ml | C(C)O | C2H6O
product | 1-(6-amino-3,5-difluoropyridin-2-yl)-6,8-difluoro-7-(3-hydroxyazetidin-1-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 90 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(C1)O)F)=O)C(=O)O)F)F | C18H12F4N4O4
